US07238701B2
Step 4. Preparation of N-(3chloro-4-fluorophenyl)-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine:
To a stirring ethanol solution (100 mL) of 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] (7.0 g, 24.8 mmol) was added 4-fluoro-3-chloroaniline (3.6 g, 24.8 mmol) and 0.05 mL 4N HCl (in dioxane). The contents were heated to reflux for 5 h, after which time the contents were removed from heating and allowed to cool to rt. The solvent was removed under reduced pressure, the crude residue suspended in aq. NaHCO3 (100 mL), and stirred for 15 min. The contents were again filtered, and the solid filter cake washed with water. The collected yellow solid was triturated with diethyl ether (50 mL) to afford the final product (5.5 g, 57%) as a light yellow solid. 1H-NMR (DMSO-d6) δ 8.41 (s, 1H), 8.28 (s, 1H), 7.78 (dd, 1H), 7.58 (m, 1H), 7.35 (t, 1H), 3.97 (s, 4H), 3.22 (t, 2H), 3.00 (s, 2H), 1.93 (t, 2H); LCMS RT=3.26 min; [M+H]+=392.3.

reactant | 4-chloro-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolane] | 24.8 mmol, 7.0 g | ClC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C12H11ClN2O2S
reactant | 4-fluoro-3-chloroaniline | 24.8 mmol, 3.6 g | FC1=C(C=C(N)C=C1)Cl | C6H5ClFN
reactant | HCl | 4N, 0.05 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | N-(3chloro-4-fluorophenyl)-5,8-dihydro-6H-spiro[1-benzothieno[2,3-d]pyrimidine-7,2′-[1,3]dioxolan]-4-amine | 5.5 g, 57% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)SC1=C2CCC2(OCCO2)C1 | C18H15ClFN3O2S
